US06096921
Preparation of 4-nitrotetrafluorophenol
21.3 g of pentafluoronitrobenzene (0.1 mol) are dissolved in 400 ml of dimethyl sulfoxide; a solution of 11.2 g of potassium hydroxide (0.2 mol) in 100 ml of water is added drop wise to this solution with vigorous stirring. After 24 hours at room temperature, the crude product is washed by shaking with 200 ml of ethyl acetate and 400 ml of water. The organic phase is washed three times with water, dried over sodium sulfate and evaporated to half in a rotary evaporator. The reaction product is then recrystallized from a mixture of ethyl acetate and n-hexane (volume ratio 1:1) and then dried for 48 hours under nitrogen at 40° C./10 mbar in a vacuum drying cabinet (yield: 95%).

reactant | pentafluoronitrobenzene | 0.1 mol, 21.3 g | FC1=C(C(=C(C(=C1[N+](=O)[O-])F)F)F)F | C6F5NO2
reactant | potassium hydroxide | 0.2 mol, 11.2 g | [OH-].[K+]
solvent | dimethyl sulfoxide | 400 ml | CS(=O)C | C2H6OS
solvent | water | 100 ml | O | H2O
product | 4-nitrotetrafluorophenol | yield: 95% | [N+](=O)([O-])C1=C(C(=C(C(=C1F)F)O)F)F | C6HF4NO3
